US06949653B2
A solution of 2-{1-[(7-chloro-1,8-naphthyridin-2-yl)amino]-6-methyl-3-oxoheptyl}benzoic acid (74.9 kg, 175.9 mol), (1S, 2R)-ephedrine hemihydrate (32.5 kg, 186.5 mol), 200 proof ethanol (290 Kg) and water (17 L) were stirred and heated to about 35° C. for 35 minutes. The solution was filtered and then cooled to about 20° C. until the onset of crystallization. The reaction was further cooled to 0-5° C. for about 2 hours. The intermediate ephedrine salt was filtered and washed with a cold (0-5° C.) solution of 200 proof ethanol (206 Kg) and water (10 L). The ephedrine salt was dissolved in 377 L of dichloromethane and stirred with 125 L water and 9.7 kg 37% hydrochloric acid. The aqueous layer was removed. The organic layer was washed with water (125 L). The organic layer was distilled to 60% of the original volume. Carbonyldiimidazole was dissolved in CH2Cl2 (128 L) and slowly transferred to the reaction solution. The reaction was complete after 20 minutes. The reaction was washed two times with water (250 L each). The CH2Cl2 solution was distilled atmospherically, the volume being replaced with of 200 proof ethanol (500 Kg). The ethanol solution was cooled at a rate of 20±5° C. per hour to 0-5° C. The solution was then held at 0-5° C. for 16 hours. The product was filtered and washed with 200 proof ethanol (100 kg). The product was dried for 16 hours under vacuum at 60° C. This afforded 26.0 Kg of (+)-2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone as a white solid (36% yield). 1H-NMR: δ 8.87 (d, J=8.8, 1H), 8.61 (m, 2H), 7.93 (d, J=7.0, 1H), 7.74 (m, 4H), 6.05 (m, 1H), 3.62 (m, 1H), 3.28 (dd, J=7.0, 17.2, 1H), 2.42 (m, 2H), 1.35 (m, 3H), 0.79 (d, J=6.2, 6H); Cl (MS) M+1 at 408, 100%; [α]D20=+135° (c=1, dichloromethane).

reactant | 2-{1-[(7-chloro-1,8-naphthyridin-2-yl)amino]-6-methyl-3-oxoheptyl}benzoic acid | 175.9 mol, 74.9 kg | ClC1=CC=C2C=CC(=NC2=N1)NC(CC(CCC(C)C)=O)C1=C(C(=O)O)C=CC=C1 | C23H24ClN3O3
reactant | ethanol | 290 Kg | C(C)O | C2H6O
solvent | water | 17 L | O | H2O
product | (+)-2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone | 26.0 Kg, 36% yield | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCC(C)C)=O)=O | C23H22ClN3O2
